US05861401
A mixture of N-(isobutoxycarbonyl)-N-(3-methoxy-5-methyl-2-pyrazinyl)-2-iodobenzenesulphonamide (0.252 g) 4-methylbenzeneboronic acid (0.068 g), tetrakis(triphenylphosphine)palladium(0) (0.0115 g), toluene (2.5 ml), ethanol (1.25 ml) and 2M sodium carbonate solution (3.75 ml) was stirred vigorously and heated under reflux for 2 hours under an atmosphere of argon. Water (10 ml) was added and the mixture was extracted with ethyl acetate (2×10 ml). The combined extracts were washed with saturated sodium chloride solution (25 ml) and dried (MgSO4). Volatile material was removed by evaporation and the residue was purified by flash chromatography, eluting with ethyl acetate/hexane (1:4 v/v), to give N-(isobutoxycarbonyl)-N-(3-methoxy-5-methyl-2-pyrazinyl)-4'-methyl-2-biphenylsulphonamide (0.182 g); 1H NMR (DMSO-d6): 0.6 (d,6H), 1.55-1.75 (m,1H), 2.35 (s,3H), 2.5 (s,3H), 3.85 (d,2H), 3.95 (s,3H), 7.15-7.25 (m,4H), 7.35-7.45 (m,1H), 7.7-7.8 (m,2H), 8.15 (s,1H), 8.45-8.55 (m,1H); mass spectrum (+ve FAB, methanol/NBA): 470 (M+H)+.

reactant | N-(isobutoxycarbonyl)-N-(3-methoxy-5-methyl-2-pyrazinyl)-2-iodobenzenesulphonamide | 0.252 g | C(C(C)C)OC(=O)N(S(=O)(=O)C1=C(C=CC=C1)I)C1=NC=C(N=C1OC)C | C17H20IN3O5S
reactant | toluene | 2.5 ml | C1(=CC=CC=C1)C | C7H8
reactant | ethanol | 1.25 ml | C(C)O | C2H6O
reactant | sodium carbonate | 2M, 3.75 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0115 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Water | 10 ml | O | H2O
product | N-(isobutoxycarbonyl)-N-(3-methoxy-5-methyl-2-pyrazinyl)-4'-methyl-2-biphenylsulphonamide | 0.182 g | C(C(C)C)OC(=O)N(S(=O)(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C)C1=NC=C(N=C1OC)C | C24H27N3O5S
